US06982348B2
To a solution of 3-hydroxytoluene (5.0 g, 46.2 mmol) in N,N-dimethylformamide (50 ml) were added 2,2,3,3-tetrafluoro-1-iodopropane (12.3 g, 50.9 mmol) and potassium carbonate (12.8 g, 92.5 mmol) and the mixture was stirred overnight at 80° C. The reaction solution was diluted with water (200 ml) and extracted with diethyl ether (300 ml×2). The extract was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to give 3-(2,2,3,3-tetrafluoropropyloxy)toluene (10.0 g, 97%) as a colorless oil.

reactant | 3-hydroxytoluene | 46.2 mmol, 5.0 g | OC=1C=C(C=CC1)C | C7H8O
reactant | 2,2,3,3-tetrafluoro-1-iodopropane | 50.9 mmol, 12.3 g | FC(CI)(C(F)F)F | C3H3F4I
reactant | potassium carbonate | 92.5 mmol, 12.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 200 ml | O | H2O
product | 3-(2,2,3,3-tetrafluoropropyloxy)toluene | 10.0 g, 97% | FC(COC=1C=C(C=CC1)C)(C(F)F)F | C10H10F4O
